US07932252B2
Synthesis of 4-tert-Butyl-N-[4-chloro-2-(hydroxy-pyridin-4-yl-methyl)-phenyl]-benzenesulfonamide
The title compound was prepared by the reduction of 4-tert-Butyl-N-[4-chloro-2-(pyridine-4-carbonyl)-phenyl]-benzenesulfonamide with NaBH4 according to the procedure described in the preceding example. MS: (M+H)=431.

reactant | 4-tert-Butyl-N-[4-chloro-2-(pyridine-4-carbonyl)-phenyl]-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=NC=C1 | C22H21ClN2O3S
reactant | NaBH4 | [BH4-].[Na+]
product | 4-tert-Butyl-N-[4-chloro-2-(hydroxy-pyridin-4-yl-methyl)-phenyl]-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(C1=CC=NC=C1)O | C22H23ClN2O3S
